US07544697B2
2-Aminophenylboronic acid hydrochloride (9.20 g, 53.0 mmol), potassium phosphate (28.0 g, 133 mmol), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (685 mg, 0.662 mmol), and bis[(2-diphenylphosphino)phenyl]ether (428 mg, 0.795 mmol) were added to a mixture of 4-bromo-5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carbonitrile (7.30 g, 26.5 mmol) and powdered molecular sieves (1 g) in toluene (165 mL). Nitrogen was bubbled through the reaction mixture, and then the reaction was heated at 110° C. for 24 hours. The mixture was filtered through a layer of silica gel (eluting with 3:2 chloroform/methanol). The filtrate was concentrated under reduced pressure and dissolved in ethanol (130 mL). Hydrogen chloride (20 mL of a 4 M solution in ethanol) was added to the solution and the reaction was heated at reflux for two hours and allowed to cool to ambient temperature. The reaction was worked up as described in Part F of Example 19. After purification by chromatography on a HORIZON HPFC system, the solid was stirred in acetonitrile and filtered to provide 1.0 g of 1-(4-chlorobutyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine that was used in the next step. The filtrate was concentrated to provide an additional 4.0 g of product.

reactant | 2-Aminophenylboronic acid hydrochloride | 53.0 mmol, 9.20 g | Cl.NC1=C(C=CC=C1)B(O)O
reactant | potassium phosphate | 133 mmol, 28.0 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 4-bromo-5-(4-chlorobutyl)-1-methyl-1H-pyrazole-3-carbonitrile | 26.5 mmol, 7.30 g | BrC=1C(=NN(C1CCCCCl)C)C#N | C9H11BrClN3
solvent | toluene | 165 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 0.662 mmol, 685 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
product | 1-(4-chlorobutyl)-2-methyl-2H-pyrazolo[3,4-c]quinolin-4-amine | 1.0 g | ClCCCCC=1N(N=C2C(=NC=3C=CC=CC3C21)N)C | C15H17ClN4
